US08802688B2
A mixture of methyl 3-iodo-1H-indazole-6-carboxylate (3.0 g, 9.9 mmol), zinc dust (400 mg, 6.11 mmol), zinc cyanide (2.0 g, 17.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (1.15 g, 1.41 mmol), and copper (I) iodide (1.90 g, 9.97 mmol) in dimethylacetamide (55 mL) was purged with nitrogen for 15 minutes. The mixture was stirred at 120° C. for 15 hours. The reaction mixture was cooled, diluted with ethyl acetate (250 mL), and filtered through Celite, rinsing with ethyl acetate (100 mL). To the filtrate was added ˜400 mL of a solution of saturated aqueous ammonium chloride and concentrated ammonium hydroxide (prepared by adding ammonium hydroxide to a saturated aqueous solution of ammonium chloride until pH=8). The mixture was stirred for 1 hour. The layers were then separated. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated in vacuo. To the residue was added methanol (40 mL) and the mixture was stirred overnight. The mixture was filtered and the solid was dried in vacuo to give methyl 3-cyano-1H-indazole-6-carboxylate as a tan solid (1.47 g, 73%). 1H NMR (400 MHz, DMSO-d6, δ): 13.40 (br. s., 1 H), 8.25 (s, 1 H), 7.94 (d, J=8.6 Hz, 1 H), 7.83 (d, J=8.4 Hz, 1 H), 3.88 (s, 3 H).

reactant | methyl 3-iodo-1H-indazole-6-carboxylate | 9.9 mmol, 3.0 g | IC1=NNC2=CC(=CC=C12)C(=O)OC | C9H7IN2O2
reactant | dichloromethane | 1.41 mmol, 1.15 g | ClCCl | CH2Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylacetamide | 55 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc | 6.11 mmol, 400 mg | [Zn] | Zn
catalyst | zinc cyanide | 17.0 mmol, 2.0 g | [C-]#N.[Zn+2].[C-]#N
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | copper (I) iodide | 9.97 mmol, 1.90 g | [Cu]I
product | methyl 3-cyano-1H-indazole-6-carboxylate | 1.47 g, 73% | C(#N)C1=NNC2=CC(=CC=C12)C(=O)OC | C10H7N3O2
